US08008303B2
4-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-ethyl]-phenylamine
A mixture of 4-(2-amino-ethyl)-phenylamine (1 g) and ethenesulfonyl-ethene (0.74 ml) in NMP (2.5 ml) containing triethylamine (1.02 ml) was heated to 110 C for 30 mins. The mixture was then allowed to cool and the solid produced was collected by filtration, washed with ether, and dried, giving the title compound as a pale yellow solid (1.59 g).

reactant | 4-(2-amino-ethyl)-phenylamine | 1 g | NCCC1=CC=C(C=C1)N | C8H12N2
reactant | ethenesulfonyl-ethene | 0.74 ml | C(=C)S(=O)(=O)C=C | C4H6O2S
reactant | triethylamine | 1.02 ml | C(C)N(CC)CC | C6H15N
solvent | NMP | 2.5 ml | CN1CCCC1=O | C5H9NO
product | 4-[2-(1,1-dioxo-1lambda*6*-thiomorpholin-4-yl)-ethyl]-phenylamine | 1.59 g | O=S1(CCN(CC1)CCC1=CC=C(C=C1)N)=O | C12H18N2O2S
